US08558001B2
Step 2—The preparation of N-[4-(2-tert-butoxy-pyridin-4-yl)-benzyl]-2,6-dichloro-benzamide
4-[(2,6-Dichloro-benzoylamino)methyl]phenylboronic acid (5 g, 15.4 mmol), potassium carbonate (5 g), and [1,1′bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.56 g, 0.77 mmol) were combined in a round bottom flask. 4-Bromo-2-(t-butoxy)pyridine (3.55 g, 15.4 mmol) was dissolved in 20 mL DMF and added to the flask under stirring. The flask was flushed with nitrogen and 10 mL water was added. The reaction mixture was stirred at 70° C. for two hours. After cooling the mixture was poured into 300 mL ethyl acetate and washed with water and brine. The organic phase was dried with magnesium sulfate and evaporated under vacuum. The crude N-[4-(2-tert-butoxy-pyridin-4-yl)-benzyl]-2,6-dichloro-benzamide was further purified by silica gel chromatography (eluent: hexone/ethyl acetate 1:1).

reactant | 4-[(2,6-Dichloro-benzoylamino)methyl]phenylboronic acid | 15.4 mmol, 5 g | ClC1=C(C(=O)NCC2=CC=C(C=C2)B(O)O)C(=CC=C1)Cl | C14H12BCl2NO3
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Bromo-2-(t-butoxy)pyridine | 15.4 mmol, 3.55 g | BrC1=CC(=NC=C1)OC(C)(C)C | C9H12BrNO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′bis(diphenylphosphino)ferrocene]dichloropalladium (II) | 0.77 mmol, 0.56 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[4-(2-tert-butoxy-pyridin-4-yl)-benzyl]-2,6-dichloro-benzamide | C(C)(C)(C)OC1=NC=CC(=C1)C1=CC=C(CNC(C2=C(C=CC=C2Cl)Cl)=O)C=C1 | C23H22Cl2N2O2
